US08258141B2
JJ1: {2-Chloro-9-[(1R,4S)-4-(di-Boc-amino)-cyclopent-2-enyl]-9H-purin-6-yl}-(2,2-diphenyl-ethyl)-amine
(1S,2R,3S,5R)-3-(Di-Boc-amino)-5-(2,6-dichloro-purin-9-yl)-cyclopentane-1,2-diol (13.0 g, 27.66 mmol) is dissolved in THF (250 ml) under an atmosphere of argon. Diisopropylamine (4.28 g, 33.19 mmol) is added followed by 2,2-diphenylethylamine (6.0 g, 30.43 mmol) and the reaction mixture is stirred at 50° C. The reaction is shown to be complete by LCMS after 18 hours. The solvent is removed in vacuo and the reaction mixture is partitioned between dichloromethane (250 ml) and 0.1M HCl (250 ml). The organic layer is washed with water (200 ml) and brine (200 ml), dried over MgSO4, filtered and the solvent is removed in vacuo to give the title compound. 1H nmr (CDCl3, 400 MHz); 8.05 (s, 1H), 7.30-7.10 (m, 10H), 6.00 (m, 1H), 5.70 (m, 2H), 5.60 (m, 1H), 5.20 (m, 1H), 4.30 (m, 1H), 4.20 (m, 1H), 3.65 (m, 1H), 3.05 (m, 1H), 2.00 (m, 1H), 1.70 (m, 1H), 1.40 (s, 18H), MS (ES+) m/e 631 (MH+).

reactant | (1S,2R,3S,5R)-3-(Di-Boc-amino)-5-(2,6-dichloro-purin-9-yl)-cyclopentane-1,2-diol | 27.66 mmol, 13.0 g | C(=O)(OC(C)(C)C)N([C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl)O)O)C(=O)OC(C)(C)C | C20H27Cl2N5O6
reactant | Diisopropylamine | 33.19 mmol, 4.28 g | C(C)(C)NC(C)C | C6H15N
reactant | 2,2-diphenylethylamine | 30.43 mmol, 6.0 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | {2-Chloro-9-[(1R,4S)-4-(di-Boc-amino)-cyclopent-2-enyl]-9H-purin-6-yl}-(2,2-diphenyl-ethyl)-amine | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H39ClN6O4
